US07462617B2
2-Cyclohex-1-enyl-5-methanesulfonyl-benzoic acid
In analogy to a procedure described by Masuda et al. [M. Murata, T. Oyama, S. Watanabe, Y. Masuda, Synthesis 2000, 778] a stirred mixture of 1 eq. 2-cyclohex-1-enyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane, 0.8 eq. 2-iodo-5-methanesulfonyl-benzoic acid, 2 eq. aqueous 3M KOH solution and 0.03 eq PdCl2 (dppf)2-CHCl3 in dioxane (0.2 ml per mmol) were heated to 80° C. for 5 h. Then the reaction mixture is diluted with water, extracted with AcOEt, the aqueous phase acidified with 2N H2SO4, extracted with AcOEt and the pooled organic extracts dried over Na2SO4, filtered and evaporated. The crude product is purified by flash-chromatography on silica gel with heptane/AcOEt as eluent to yield the title compound; MS (ISN): 279.8 M−H−.

reactant | 2-cyclohex-1-enyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1(=CCCCC1)B1OC(C(O1)(C)C)(C)C | C12H21BO2
reactant | 2-iodo-5-methanesulfonyl-benzoic acid | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | KOH | 3M | [OH-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-Cyclohex-1-enyl-5-methanesulfonyl-benzoic acid | C1(=CCCCC1)C1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C14H16O4S
